US04827032
37.2 g of 3-(nitromethyl)cyclohexanone are reduced with lithium aluminum hydride in analog to the procedure for Example 2. In this way 7.5 g (24.5% of theory) of viscous oily 3-(aminomethyl)cyclohexanol are obtained. Rf =0.04 CH2Cl2 :CH3OH=9:1

reactant | 3-(nitromethyl)cyclohexanone | 37.2 g | [N+](=O)([O-])CC1CC(CCC1)=O | C7H11NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(aminomethyl)cyclohexanol | 7.5 g, 24.5% | NCC1CC(CCC1)O | C7H15NO
